US06344470B1
N-(5-Chloro-2-methylphenyl)thiourea (Compound 11-1)
8.9 ml of benzoyl chloride are added to a solution of 5.9 g of ammonium thiocyanate in 130 ml of anhydrous acetone. The reaction mixture is heated under reflux for 15 minutes and then after cooling, 10 g of 5-chloro-2-methylaniline are added. The reaction mixture is heated under reflux for 2 hours and the acetone is removed by distillation under vacuum. The residue obtained is taken up in dichloromethane. The mixture is washed with water, dried over sodium sulphate and evaporated under vacuum. The expected product is obtained in the form of an oil with a quantitative yield.

reactant | benzoyl chloride | 8.9 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 5.9 g | [S-]C#N.[NH4+]
reactant | 5-chloro-2-methylaniline | 10 g | ClC=1C=CC(=C(N)C1)C | C7H8ClN
solvent | acetone | 130 ml | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5-Chloro-2-methylphenyl)thiourea | quantitative yield | ClC=1C=CC(=C(C1)NC(=S)N)C | C8H9ClN2S
